US08541455B2
A mixture of 0.67 g (1.96 mmol) of 6-chloro-N-(2,3-dihydroxypropyl)-N-phenylpyridine-3-sulfonamide, 0.53 mL (4.3 mmol) of 2,2-dimethoxypropane and 37 mg of pTsOH in 4 mL of DMF is stirred for 3 hours at room temperature. The medium is taken up in 100 mL of EtOAc, washed with 50 mL of saturated NaHCO3 solution and 50 mL of water and then dried over Na2SO4, filtered and concentrated under reduced pressure. 0.54 g 6-chloro-N-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]-N-phenylpyridine-3-sulfonamide is obtained in the form of a brown solid, which is used without further purification in the following step.

reactant | 6-chloro-N-(2,3-dihydroxypropyl)-N-phenylpyridine-3-sulfonamide | 1.96 mmol, 0.67 g | ClC1=CC=C(C=N1)S(=O)(=O)N(C1=CC=CC=C1)CC(CO)O | C14H15ClN2O4S
reactant | 2,2-dimethoxypropane | 4.3 mmol, 0.53 mL | COC(C)(C)OC | C5H12O2
reactant | pTsOH | 37 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 6-chloro-N-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]-N-phenylpyridine-3-sulfonamide | 0.54 g, Yield=73% | ClC1=CC=C(C=N1)S(=O)(=O)N(C1=CC=CC=C1)CC1OC(OC1)(C)C | C17H19ClN2O4S
